US05668145
A. 2-Cyano-3,3-diethoxy-acrylic acid methyl ester
A reaction mixture consisting of methylcyanoacetate (5.0 ml, 57 mmol) and tetraethylorthocarbonate (17.99 ml, 86 mmol) in acetic anhydride (8.11 ml, 86 mmol) was heated at 130° C. for 5 hours, and then heated at 110° C. for 18 hours. The cooled reaction residue was extracted twice with 125 ml portions of hexane. A hexane-insoluble orange oil containing approximately 40% by weight of the desired compound (as established by NMR inspection) remained. This crude product was used in the next step without further purification. TLC Rf (silica gel plates, u.v. detection, ethyl acetate/hexane=15:85 in volume): 0.13.

reactant | methylcyanoacetate | 57 mmol, 5.0 ml | COC(CC#N)=O | C4H5NO2
reactant | tetraethylorthocarbonate | 86 mmol, 17.99 ml | C(C)OC(OCC)(OCC)OCC | C9H20O4
reactant | acetic anhydride | 86 mmol, 8.11 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Cyano-3,3-diethoxy-acrylic acid methyl ester | COC(C(=C(OCC)OCC)C#N)=O | C9H13NO4
